US07572809B2
a) Preparation of 6-Methoxy-3-oxo-indan-5-carboxylic acid amide
6-Methoxy-3-oxo-indan-5-carboxylic acid methyl ester (7 g, 31.82 mmol) was suspended in NH3.H2O (150 ml), and the mixture was heated to 40° C. and stirred for two hours, during this time the precipitate was formed. The precipitate was collected and dried to give product as white solid (5.2 g, 80% yield). LC-MS: m/e 206(MH+)

reactant | 6-Methoxy-3-oxo-indan-5-carboxylic acid methyl ester | 31.82 mmol, 7 g | COC(=O)C=1C=C2C(CCC2=CC1OC)=O | C12H12O4
reactant | NH3.H2O | 150 ml | N.O
product | 6-Methoxy-3-oxo-indan-5-carboxylic acid amide | 5.2 g, 80% yield | COC1=C(C=C2C(CCC2=C1)=O)C(=O)N | C11H11NO3
